US07851473B2
N-(3,4-Dimethylisoxazol-5-yl)-4-(5-phenyl-1,3,4-oxadiazol-2-yl)piperidine-1-carboxamide
A solution of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (293 mg, 1.02 mmol), 4-(5-phenyl-1,3,4-oxadiazol-2-yl)piperidine (234 mg, 1.02 mmol), diisopropylethylamine (0.387 ml, 2.05 mmol) and dimethyl sulfoxide (4 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from ethyl acetate to give 142 mg (37.9%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 1.02 mmol, 293 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 4-(5-phenyl-1,3,4-oxadiazol-2-yl)piperidine | 1.02 mmol, 234 mg | C1(=CC=CC=C1)C1=NN=C(O1)C1CCNCC1 | C13H15N3O
reactant | diisopropylethylamine | 2.05 mmol, 0.387 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(3,4-Dimethylisoxazol-5-yl)-4-(5-phenyl-1,3,4-oxadiazol-2-yl)piperidine-1-carboxamide | 142 mg, 37.9% | CC1=NOC(=C1C)NC(=O)N1CCC(CC1)C=1OC(=NN1)C1=CC=CC=C1 | C19H21N5O3
